US05428037
To a solution of ethyl 4'-methylbiphenyl-3-carboxylate (4.0 g) in ethanol (50 ml) was added a solution of 10 ml of 10% aqueous sodium hydroxide, and the mixture refluxed for 2 hours. Solvent was removed under reduced pressure, water added to the residue, and the solution filtered. The filtrate was acidified with dilute hydrochloric acid, and the white solid filtered off and dried under vacuum, yielding 2.4 g of 4'-methylbiphenyl-3-carboxylic acid m.p. 192° C.

reactant | ethyl 4'-methylbiphenyl-3-carboxylate | 4.0 g | CC1=CC=C(C=C1)C1=CC(=CC=C1)C(=O)OCC | C16H16O2
reactant | sodium hydroxide | 10 ml | [OH-].[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 4'-methylbiphenyl-3-carboxylic acid | 2.4 g | CC1=CC=C(C=C1)C1=CC(=CC=C1)C(=O)O | C14H12O2
